US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 90 mg (0.22 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 1.96 mL 0.25M 5-methyl-2-pyridylmagnesium bromide. Yield: 33 mg of a white solid. LC-MSD, m/z for C22H16BrN3O2 [M+H]+=434.0, 436.0; HPLC retention time: 2.0 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.22 mmol, 90 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | 5-methyl-2-pyridylmagnesium bromide | 0.25M, 1.96 mL | CC=1C=CC(=NC1)[Mg]Br
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(5-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C1=NC=C(C=C1)C | C22H16BrN3O2
